US06936608B2
d) Trifluoromethanesulfonic Acid 2-fluoro-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenyl Ester
To a stirred solution of 2-fluoro-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenol (0.109 g, 0.366 mmol) in dichloromethane (4 ml) was added triethylamine (66.2 μl, 0.476 mmol) and N-phenyltrifluoromethanesulfonimide (0.157 g, 0.439 mmol) in dichloromethane (4 ml). The mixture was stirred at room temperature under nitrogen for 20 h, then partitioned between ammonium chloride (5 ml), sodium chloride (5 ml), water (5 ml) and dichloromethane (10 ml). The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 30% EtOAc/isohexane) to afford 0.158 g (100%) of the title compound: 1H NMR (360 MHz, CDCl3) δ 7.48 (1H, t, J 8.9 Hz), 8.05-8.09 (1H, m), 8.27 (1H, dd, J 2.1, 7.0 Hz), 8.62 (1H, s), 8.86 (1H, s); MS (ES+) m/z 431 [M+H]+.

reactant | 2-fluoro-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenol | 0.366 mmol, 0.109 g | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)O | C12H6F4N4O
reactant | triethylamine | 0.476 mmol, 66.2 μl | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 0.439 mmol, 0.157 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic Acid 2-fluoro-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenyl Ester | 0.158 g, 100% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C13H5F7N4O3S
